US07576108B2
a: (E)-2-Chloro-4-(2-cyclohexyl-1-hydroxymethyl-vinyl)-benzenesulfonamide
According to example 26b, reaction of 4-bromo-2-chloro-benzenesulfonamide (1.0 g, 3.7 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (271 mg, 0.37 mmol), (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol (1.5 g, 5.5 mmol) and aqueous sodium carbonat solution (2 M, 3.60 mL, 7.40 mmol) in 15 mL DMF at 80° C. and purification via column chromatography on silica gel, eluting with a gradient from 70:30 to 50:50 hexane:ethyl acetate affords the title compound as an oil (1.34 g). MS (m/e): 312 [(M−H2O)+H].

reactant | 4-bromo-2-chloro-benzenesulfonamide | 3.7 mmol, 1.0 g | BrC1=CC(=C(C=C1)S(=O)(=O)N)Cl | C6H5BrClNO2S
reactant | (E)-3-cyclohexyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-prop-2-en-1-ol | 5.5 mmol, 1.5 g | C1(CCCCC1)/C=C(/CO)\B1OC(C(O1)(C)C)(C)C | C15H27BO3
reactant | sodium carbonat | 7.40 mmol, 2 M, 3.60 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.37 mmol, 271 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-2-Chloro-4-(2-cyclohexyl-1-hydroxymethyl-vinyl)-benzenesulfonamide | 1.34 g | ClC1=C(C=CC(=C1)/C(=C\C1CCCCC1)/CO)S(=O)(=O)N | C15H20ClNO3S
